US07790756B2
A suspension of 7-nitro-3,4-dihydro-2H-isoquinolin-1-one (11.6 g, 60 mmol) and 10% Pd/C (1.2 g) in MeOH was stirred overnight at RT under H2 (40 psi). The mixture was filtered through Celite® and washed with MeOH. The filtrate was evaporated under vacuum to afford 8.2 g of 7-amino-3,4-dihydro-2H-isoquinolin-1-one, which was used without further purification.

reactant | 7-nitro-3,4-dihydro-2H-isoquinolin-1-one | 60 mmol, 11.6 g | [N+](=O)([O-])C1=CC=C2CCNC(C2=C1)=O | C9H8N2O3
solvent | MeOH | CO | CH4O
catalyst | Pd/C | 1.2 g | [Pd] | Pd
product | 7-amino-3,4-dihydro-2H-isoquinolin-1-one | 8.2 g | NC1=CC=C2CCNC(C2=C1)=O | C9H10N2O
